US06737423B2
b) 2-(Octahydro-4,7-methanoinden-5-yl)-isoindole-1,3-dione
1.7 g of diethyl azodicarboxylate diluted with 5 ml of THF were added with stirring to a solution of 1.66 g of octahydro-4,7-methanoinden-5-ole from 6 a), 1.47 g of phthalimide and 2.62 g of triphenylphosphine in 15 ml of THF. After standing overnight, the reaction mixture was evaporated, the residue was stirred with ether, the precipitate was filtered off with suction, and the filtrate was concentrated. The residue was purified on silica gel/toluene. 1.36 g of a yellow oil were obtained.

reactant | diethyl azodicarboxylate | 1.7 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | phthalimide | 1.47 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 2.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-(Octahydro-4,7-methanoinden-5-yl)-isoindole-1,3-dione | 1.36 g | C1CCC2C3C(CC(C12)C3)N3C(C1=CC=CC=C1C3=O)=O | C18H19NO2
